US07947691B2
3-Hydroxy-1-methyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with methyl iodide according to procedure B2. The crude intermediate was deprotected via general procedure D1 to give the title compound which was purified by mass-triggered preparative HPLC. 1H NMR (d6-DMSO, 300 MHz) δ 3.76 (s, 3H); 7.33 (dd, J=7 Hz, 1H); 7.42 (dd, J=7 Hz, 1H); 7.93 (d, J=8 Hz, 1H); 8.27 (d, J=8 Hz, 1H); Retention time=1.81 min., m/z=249.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | methyl iodide | CI | CH3I
product | 3-Hydroxy-1-methyl-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC1=C2C=CC=C1)C)=O | C11H8N2O3S
